US07691869B2
4-Chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine (0.5 g, 2 96 mmol) and 2-furoic acid hydrazide (0.76 g, 6.0 mmol) are taken into 30 mL of n-butanol. The mixture is stirred at 120° C. under N2 for 2 h. The solvent is evaporated in vacuum and the residue is triturated with water and filtered to afford compound N′-(2-amino-7H-pyrrolo[2,3-d]pyrimidin-4-yl)furan-2-carbohydrazide: LC/MS (M+1=259.32). This material is used in the next step without further purification.

reactant | 4-Chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine | 96 mmol, 0.5 g | ClC=1C2=C(N=C(N1)N)NC=C2 | C6H5ClN4
reactant | 2-furoic acid hydrazide | 6.0 mmol, 0.76 g | O1C(=CC=C1)C(=O)NN | C5H6N2O2
solvent | n-butanol | 30 mL | C(CCC)O | C4H10O
product | N′-(2-amino-7H-pyrrolo[2,3-d]pyrimidin-4-yl)furan-2-carbohydrazide | NC=1N=C(C2=C(N1)NC=C2)NNC(=O)C=2OC=CC2 | C11H10N6O2
